US09315494B2
To a cooled (0° C.) solution of N-(2-nitrophenyl)methanesulfonamide (50 mg, 0.231 mmol) in DMF (2 mL) was added sodium hydride (11 mg, 0.46 mmol) and the reaction was warmed to room temperature and stirred for 20 minutes. The reaction was then re-cooled to 0° C. and iodomethane (0.029 mL 0.46 mmol) was added. The reaction was warmed to room temperature and stirred for 3 hours. The crude reaction was concentrated and purified by silica gel chromatography to provide N-methyl-N-(2-nitrophenyl)methanesulfonamide (20 mg, 38% yield). 1H NMR (300 MHz, CDCl3) δ 7.91 (m, 1H), 7.70-7.50 (m, 3H), 3.34 (s, 3H), 3.01 (s, 3H).

reactant | N-(2-nitrophenyl)methanesulfonamide | 0.231 mmol, 50 mg | [N+](=O)([O-])C1=C(C=CC=C1)NS(=O)(=O)C | C7H8N2O4S
reactant | sodium hydride | 0.46 mmol, 11 mg | [H-].[Na+]
reactant | iodomethane | 0.46 mmol, 0.029 mL | IC | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-methyl-N-(2-nitrophenyl)methanesulfonamide | 20 mg, 38% yield | CN(S(=O)(=O)C)C1=C(C=CC=C1)[N+](=O)[O-] | C8H10N2O4S
